US04239901
44.5 g (0.164 mole) of 4-acetamido-3-bromophenylacetic acid and 131 ml of 6 N hydrochloric acid are heated to 100° C. for 2 hours. The solution of 4-amino-3-bromophenylacetic acid (which is thus formed) is cooled to -6° C. in an ice-sodium chloride bath, and a solution of 11.7 g (0.17 mole) of sodium nitrite in 130 ml of water is added dropwise thereto at -6° C. Stirring is continued for a further hour at the same temperature, and the thus-prepared solution of the diazonium salt is poured slowly into a solution (which is cooled to -10° C.) of 100 g (0.443 mole) of tin(II) chloride dihydrate in 100 ml of concentrated hydrochloric acid to form 3-bromo-4-hydraziniumphenylacetic acid chloride. Dilution of the latter with 300 ml of water is effected, and 36 ml (0.163 mole) of 1,1,3,3-tetraethoxypropane are added dropwise thereto; stirring is then effected for 4 hours at room temperature. The resulting reaction mixture is rendered alkaline with 35% strength solution of sodium hydroxide and is heated to 100° C. for one hour in order to hydrolyze 3-bromo-4-(pyrazol-1-yl)phenylacetic acid ethyl ester, which is formed simultaneously along with the corresponding free acid. The produced ethanol is distilled off, and clarification is effected with activated charcoal. This is followed by acidification with hydrochloric acid and extraction with chloroform. The organic phase is dried. Concentration to dryness is effected in a vacuum, and the residue is recrystallized from benzene to obtain 38.5 g (83.5% of theory) of 3-bromo-4-(pyrazol-1-yl)phenylacetic acid (m.p. 100° to 101° C.).

reactant | 4-acetamido-3-bromophenylacetic acid | 0.164 mole, 44.5 g | C(C)(=O)NC1=C(C=C(C=C1)CC(=O)O)Br | C10H10BrNO3
reactant | hydrochloric acid | 6 N, 131 ml | Cl | ClH
product | 4-amino-3-bromophenylacetic acid | NC1=C(C=C(C=C1)CC(=O)O)Br | C8H8BrNO2
